US09334269B2
Synthesis of 4-(4-(trifluoromethoxy)benzyloxy)piperidine
tert-Butyl 4-(4-(trifluoromethoxy)benzyloxy)piperidine-1-carboxylate was dissolved in CH2Cl2 (40 mL) and TFA (4 mL) was added. The light yellow solution was stirred at RT for 20 h, after which time complete Boc deprotection was evident by LC-MS. The solution was concentrated under reduced pressure providing product as a TFA salt in 65-95% overall yield. The material was purified to obtain a salt or free based using catch and release with strong cation exchange chromatography (SCX-2) washing first with MeOH, then with 2M NH3 in MeOH.

reactant | tert-Butyl 4-(4-(trifluoromethoxy)benzyloxy)piperidine-1-carboxylate | FC(OC1=CC=C(COC2CCN(CC2)C(=O)OC(C)(C)C)C=C1)(F)F | C18H24F3NO4
reactant | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-(trifluoromethoxy)benzyloxy)piperidine | FC(OC1=CC=C(COC2CCNCC2)C=C1)(F)F | C13H16F3NO2
